US05004745
The 7,9-difluoro-3-ethoxycarbonyl-1-ethyl-4-oxo-8-(perhydro-1,4-diazepin-1-yl)-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 5, but starting from 3 g of 3-ethoxycarbonyl-1-ethyl-7,8,9-trifluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine and 2 g of hexahydro-1,4-diazepine. 1.7 g of 3-ethoxycarbonyl-1-ethyl-7,9-difluoro-4-oxo-8-(perhydro-1,4-diazepin-1-yl)-1,4-dihydro-benzo[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 190° C.

reactant | 3-ethoxycarbonyl-1-ethyl-7,8,9-trifluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 3 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)CC)C(=C(C(=C3)F)F)F)=O | C17H13F3N2O3
reactant | hexahydro-1,4-diazepine | 2 g | N1CCNCCC1 | C5H12N2
product | 3-ethoxycarbonyl-1-ethyl-7,9-difluoro-4-oxo-8-(perhydro-1,4-diazepin-1-yl)-1,4-dihydro-benzo[b][1,8]naphthyridine | 1.7 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)CC)C(=C(C(=C3)F)N3CCNCCC3)F)=O | C22H24F2N4O3
